US05233010
A 9 oz. Fisher Porter bottle was charged with p-phenylenediamine (2.16 g, 20 mmol), N-cyclohexyl-N',N',N",N"-tetraethyl guanidine (10.12 g, 40 mmol), triethylamine (8.4 mL, 60 mmol) and 100 mL CH2Cl2 and then pressurized to 80 psi with CO2. An exothermic reaction occurred upon addition of the CO2 and after stirring for 30 min. at room temperature the solution was cooled to 0° C. in an ice bath. Phosphorous oxychloride (3.7 mL, 40 mmol) was added rapidly to the cold solution causing an exothermic reaction and formation of a pale yellow precipitate. Removal of the ice bath and stirring at room temperature for an additional 30 min. followed by the addition of 150 mL of diethyl ether and filtration through celite gave a pale yellow filtrate from which 2.03 g (62%) of pure p-phenylenediisocyanate was isolated by crystallization.

reactant | p-phenylenediamine | 20 mmol, 2.16 g | C1=CC(=CC=C1N)N | C6H8N2
reactant | triethylamine | 60 mmol, 8.4 mL | C(C)N(CC)CC | C6H15N
reactant | CO2 | C(=O)=O | CO2
reactant | Phosphorous oxychloride | 40 mmol, 3.7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | p-phenylenediisocyanate | 2.03 g, 62% | C1(=CC=C(C=C1)N=C=O)N=C=O | C8H4N2O2
